US09212182B2
Step 3: 4-(benzylthio)-N1-(4′-chloro-2-fluoro-5-methoxy-3′-methyl-[1,1′-biphenyl]-4-yl)benzene-1,2-diamine
To a vial was added N-(4-(benzylthio)-2-nitrophenyl)-4′-chloro-2-fluoro-5-methoxy-3′-methyl-[1,1′-biphenyl]-4-amine (2.56 g, 5.03 mmol), acetic acid (25.9 mL, 453 mmol) and zinc powder (0.463 mL, 50.3 mmol). The cloudy maroon reaction mixture was capped and stirred for 60 min at 70° C. The reaction mixture was filtered through Celite and washed with MeOH. The residual filtrate was concentrated in vacuo, then partitioned between EtOAc (2×300 ml) and saturated aqueous NaHCO3 (350 ml). The combined organic layers were dried over Na2SO4 and concentrated. Reaction was purified using Biotage and eluted with 0-50% EtOAc/Heptane. Collected fractions and removed solvent in vaccuo, affording the title compound, 4-(benzylthio)-N-(4′-chloro-2-fluoro-5-methoxy-3′-methyl-[1,1′-biphenyl]-4-yl)benzene-1,2-diamine (1.87 g, 3.90 mmol, 78% yield). m/z (ESI) 480.2 (M+H)+.

reactant | N-(4-(benzylthio)-2-nitrophenyl)-4′-chloro-2-fluoro-5-methoxy-3′-methyl-[1,1′-biphenyl]-4-amine | 5.03 mmol, 2.56 g | C(C1=CC=CC=C1)SC1=CC(=C(C=C1)NC1=CC(=C(C=C1OC)C1=CC(=C(C=C1)Cl)C)F)[N+](=O)[O-] | C27H22ClFN2O3S
reactant | acetic acid | 453 mmol, 25.9 mL | C(C)(=O)O | C2H4O2
catalyst | zinc | 50.3 mmol, 0.463 mL | [Zn] | Zn
product | 4-(benzylthio)-N-(4′-chloro-2-fluoro-5-methoxy-3′-methyl-[1,1′-biphenyl]-4-yl)benzene-1,2-diamine | 3.90 mmol, 1.87 g, 78% yield | C(C1=CC=CC=C1)SC=1C=C(C(=CC1)NC1=CC(=C(C=C1OC)C1=CC(=C(C=C1)Cl)C)F)N | C27H24ClFN2OS
